US06353010B1
2-Ethyl-4-methoxybenzoxazole
2-Ethyl-4-hydroxybenzoxazole (4.17 g) was dissolved in tetrahydrofuran (73 ml) at room temperature. Tetrabutylammonium iodide (0.4 g) was added, followed by a solution of sodium hydroxide (3.89 g) in water (40 ml). The mixture was stirred for 10 minutes before addition of iodomethane (3.13 ml). Stirring was then continued overnight. The crude mixture was evaporated onto silica, and purified by flash chromatography eluting with 25% then 50% ethyl acetate in hexane to give the title compound as a straw coloured liquid (3.05 g).

reactant | 2-Ethyl-4-hydroxybenzoxazole | 4.17 g | C(C)C=1OC2=C(N1)C(=CC=C2)O | C9H9NO2
reactant | sodium hydroxide | 3.89 g | [OH-].[Na+]
reactant | iodomethane | 3.13 ml | IC | CH3I
solvent | tetrahydrofuran | 73 ml | O1CCCC1 | C4H8O
catalyst | Tetrabutylammonium iodide | 0.4 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 40 ml | O | H2O
product | 2-Ethyl-4-methoxybenzoxazole | 3.05 g | C(C)C=1OC2=C(N1)C(=CC=C2)OC | C10H11NO2
